US09216968B2
N-[2-(Trifluoromethyl)benzyl]-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxamide
To a solution of 6-({[2-(trifluoromethyl)phenyl]carbonyl}amino-1H-benzimidazole-4-carboxylic acid (50 mg) in DMF (2 mL) were added N′-(ethylcarbonimidoyl)-N,N-dimethyl-1,3-propanediamine hydrochloride (33 mg), 1-hydroxybenzotriazol (23 mg) and triethylamine (24 μL), and 2-(trifluoromethyl)benzylamine (24 μL) was added under ice-cooling, and the solution was stirred at room temperature overnight. The mixture was poured into ice water and extracted with ethyl acetate. The ethyl acetate layer was washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was washed with n-hexane/ethyl acetate (1:1), and collected by filtration to obtain the titled compound (61 mg) as colorless powder. MS (ESI+) m/z 507 (M+H)+

reactant | {[2-(trifluoromethyl)phenyl]carbonyl}amino-1H-benzimidazole-4-carboxylic acid | 50 mg | FC(C1=C(C=CC=C1)C(=O)NN1C=NC2=C1C=CC=C2C(=O)O)(F)F | C16H10F3N3O3
reactant | N′-(ethylcarbonimidoyl)-N,N-dimethyl-1,3-propanediamine hydrochloride | 33 mg | Cl.C(C)C(=N)NCCCN(C)C
reactant | 1-hydroxybenzotriazol | 23 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-(trifluoromethyl)benzylamine | 24 μL | FC(C1=C(CN)C=CC=C1)(F)F | C8H8F3N
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 24 μL | C(C)N(CC)CC | C6H15N
product | N-[2-(Trifluoromethyl)benzyl]-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxamide | 61 mg | FC(C1=C(CNC(=O)C2=CC(=CC=3NC=NC32)NC(=O)C3=C(C=CC=C3)C(F)(F)F)C=CC=C1)(F)F | C24H16F6N4O2
